* BSIM4 开关瞬态 (PULSE) — generated
VDD vdd 0 1.0
RD vdd d 10k
VG g 0 PULSE(0 1 5n 1n 1n 4n 10n)
M1 d g 0 0 nmos w=1u l=130n
.model nmos bsim4va generated=1 w=1u l=130n
+ toxe=3e-9 toxp=3e-9 vth0=0.5 k1=0.5 k2=0 k3=0 dvt0=1 dvt1=2 dvt2=-0.032
+ u0=0.045 ua=-1e-10 ub=0 vsat=1.5e5 rdsw=160 nfactor=1.2
+ cgso=0.1e-9 cgdo=0.1e-9 cgbo=0 cjs=1e-3 cjd=1e-3 cjsws=1e-10 cjswd=1e-10
+ mjs=0.5 mjd=0.5 mjsws=0.33 mjswd=0.33 pbs=0.88 pbd=0.88 pbsws=0.88 pbswd=0.88
.tran 0.2n 20n
.print v(g) v(d)
.end
